US04134980
1-[4-Methyl-6,7-ethylenedioxy-1(2H)-phthalazinone-2-yl]-3-chloro-propane was prepared analogous to Example 1 (a) by reaction of 4-methyl-6,7-ethylenedioxy-1(2H)-phthalazinone with 1-bromo-3-chloro-propane in dimethylformamide. Rf -value (chloroform/methanol = 19/1) : 0.9.

reactant | 4-methyl-6,7-ethylenedioxy-1(2H)-phthalazinone | CC1=NNC(C2=CC3=C(C=C12)OCCO3)=O | C11H10N2O3
reactant | 1-bromo-3-chloro-propane | BrCCCCl | C3H6BrCl
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[4-Methyl-6,7-ethylenedioxy-1(2H)-phthalazinone-2-yl]-3-chloro-propane | CC1=NN(C(C2=CC3=C(C=C12)OCCO3)=O)CCCCl | C14H15ClN2O3
